US07632857B2
(3,4′-Difluoro-biphenyl-4-yl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone
The title compound is prepared in a manner substantially analogous to Procedure SS starting from (4-bromo-2-fluoro-phenyl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone and 4-Fluorobenzene boronic acid. MS (M+H) 371.2

reactant | (4-bromo-2-fluoro-phenyl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | BrC1=CC(=C(C=C1)C(=O)N1[C@@H](CCC1)CN1CCCC1)F | C16H20BrFN2O
reactant | 4-Fluorobenzene boronic acid | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
product | (3,4′-Difluoro-biphenyl-4-yl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | FC=1C=C(C=CC1C(=O)N1[C@@H](CCC1)CN1CCCC1)C1=CC=C(C=C1)F | C22H24F2N2O
